US07714010B2
d) 6-Amino-3,3-dimethyl-5-methylamino-1,3-dihydro-indol-2-one (B2)
1,3,3-Trimethyl-5-methylamino-6-nitro-1,3-dihydro-indol-2-one (176 mg) is dissolved in MeOH (22 ml) and hydrogenated at 3 bar and 40° C. for 5 h using Pd/C (10%) (18 mg). After filtration and evaporation the crude material is purified by flash chromatography on silica gel eluting with CH2Cl2/MeOH (30:1) to give the title compound (128 mg).

reactant | 1,3,3-Trimethyl-5-methylamino-6-nitro-1,3-dihydro-indol-2-one | 176 mg | CN1C(C(C2=CC(=C(C=C12)[N+](=O)[O-])NC)(C)C)=O | C12H15N3O3
solvent | MeOH | 22 ml | CO | CH4O
catalyst | Pd/C | 18 mg | [Pd] | Pd
product | 6-Amino-3,3-dimethyl-5-methylamino-1,3-dihydro-indol-2-one | 128 mg | NC1=C(C=C2C(C(NC2=C1)=O)(C)C)NC | C11H15N3O
